US05045544
2-(Cyanomethyl)-1,2,3,4-tetrahydro-4-(methoxycarbonyl)-1,3-dioxo-4-isoquinolineacetic Acid 1,1-Dimethylethyl Ester
To a suspension of 2-(cyanomethyl)-1,2,3,4-tetrahydro-1,3-dioxo-4-isoquinoline carboxylic acid methyl ester (6.5 g, 25.19 mmol), K2CO3 (6.95 g, 50.38 mmol) and anhydrous DMF (100 mL) was added tert-butyl bromoacetate (6.1 mL, 37.79 mmol). After stirring at 85° C. for 3 hours, the mixture was poured into H2O, acidified with HCl (2N) and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography on silica gel (hexane/EtOAc 4/1) gave a white solid (8.5 g, 90.7%).

reactant | 2-(cyanomethyl)-1,2,3,4-tetrahydro-1,3-dioxo-4-isoquinoline carboxylic acid methyl ester | 25.19 mmol, 6.5 g | COC(=O)C1C(N(C(C2=CC=CC=C12)=O)CC#N)=O | C13H10N2O4
reactant | K2CO3 | 50.38 mmol, 6.95 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl bromoacetate | 37.79 mmol, 6.1 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | HCl | 2N | Cl | ClH
solvent | H2O | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(Cyanomethyl)-1,2,3,4-tetrahydro-4-(methoxycarbonyl)-1,3-dioxo-4-isoquinolineacetic Acid 1,1-Dimethylethyl Ester | 8.5 g, 90.7% | CC(C)(C)OC(CC1(C(N(C(C2=CC=CC=C12)=O)CC#N)=O)C(=O)OC)=O | C19H20N2O6
